US06271225B1
To a solution of 2-aminobenzo[b]thiophene-3-carbonitrile (116 g), dimethylformamide (370 ml) and 2,4-difluoronitrobenzene (73 ml) was added pulverized potassium carbonate (276 g), and the mixture was stirred at 55° C. for 5.5 hours. The reaction mixture was stirred under ice-cooling for 30 minutes and water (1.9 L) was added. The mixture was further stirred for 30 minutes. The precipitated crystals were filtered by suction and washed with water (1.9 L) and dried in a drying box overnight to give crude crystals (198 g). The obtained crude crystals were suspended in ethyl acetate (700 ml) and the mixture was stirred under reflux with heating while removing water for 2 hours. The reaction mixture was cooled and stirred at 20° C. for 1 hour. The precipitated crystals were filtered by suction, washed with ethyl acetate (150 ml) and dried to give 2-(5-fluoro-2-nitroanilino)benzo[b]thiophene-3-carbonitrile (123 g) as red crystalline powder.

reactant | 2-aminobenzo[b]thiophene-3-carbonitrile | 116 g | NC1=C(C2=C(S1)C=CC=C2)C#N | C9H6N2S
reactant | dimethylformamide | 370 ml | CN(C=O)C | C3H7NO
reactant | 2,4-difluoronitrobenzene | 73 ml | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | potassium carbonate | 276 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | 700 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 1.9 L | O | H2O
product | 2-(5-fluoro-2-nitroanilino)benzo[b]thiophene-3-carbonitrile | 123 g | FC=1C=CC(=C(NC2=C(C3=C(S2)C=CC=C3)C#N)C1)[N+](=O)[O-] | C15H8FN3O2S
